US04908378
Preparation of 1-[(1,1-Dimethyl-2-propynyl)oxy]-4-iodobenzene
To a solution of 4-iodophenol (5.01 g, 22.8 mmol) in CH3CN (100 mL) containing K2CO3 (15.7 g, 0.114 mol) was added KI (4.91 g, 29.6 mmol) followed by 3-methyl-3-chlorobutyne (7.01 g, 68.3 mmol) at room temperature. The reaction was heated to 80° C. for 60 hours. The reaction was cooled to room temperature, quenched with 2.5N NaOH and extracted with ether. The combined organic extracts were washed with 2.5N NaOH (2X eq. vol.), dried over anhydrous K2CO3 and concentrated. The residue was taken up in a minimal amount of 10% ether/petroleum ether and filtered through a 2" silica gel pad, using 10% ether/petroleum ether elution. The filtrate was concentrated to give 6.04 g, (93%) of product.

reactant | 4-iodophenol | 22.8 mmol, 5.01 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | K2CO3 | 0.114 mol, 15.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-methyl-3-chlorobutyne | 68.3 mmol, 7.01 g | CC(C#C)(C)Cl | C5H7Cl
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | 1-[(1,1-Dimethyl-2-propynyl)oxy]-4-iodobenzene | 93% | CC(C#C)(C)OC1=CC=C(C=C1)I | C11H11IO
